US04424219
Maytansinol (127.7 mg) and cyclobutanecarboxylic acid (120 μl) was dissolved in 5 ml of dichloromethane. To the solution, were added 340 mg of N,N-dicyclohexylcarbodiimide and 55 mg of 4-dimethylaminopyridine. The mixture was stirred at room temperature for four hours. To the reaction solution was added water, and the mixture was stirred. The resulting precipitates were removed by filtration and the filtrate was diluted with ethyl acetate. The ethyl acetate layer was separated and washed with water and dried. The solvent was removed by evaporation and the residue was purified by means of a silica-gel chromatography (solvent: aqueous ethyl acetate) to collect 82.7 g of a fraction containing the desired product. The product was crystallized from a small volume of ethyl acetate to yield 47.6 mg of maytansinol 3-cyclobutanecarboxylate. Melting point: 205°-208° C. (decomp.).

reactant | Maytansinol | 127.7 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
reactant | cyclobutanecarboxylic acid | 120 μl | C1(CCC1)C(=O)O | C5H8O2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | maytansinol 3-cyclobutanecarboxylate | 47.6 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O.C1CC(C1)C(=O)[O-] | InChI=1S/C28H37ClN2O8.C5H8O2/c1-15-8-7-9-22(37-6)28(35)14-20(38-26(34)30-28)16(2)25-27(3,39-25)21(32)13-23(33)31(4)18-11-17(10-15)12-19(36-5)24(18)29;6-5(7)4-2-1-3-4/h7-9,11-12,16,20-22,25,32,35H,10,13-14H2,1-6H3,(H,30,34);4H,1-3H2,(H,6,7)/p-1/b9-7+,15-8+;
